US07125896B2
b) 3-(2-Bromophenoxy)-1-(tert-butyloxycarbonyl)pyrrolidine
3-(2-Bromophenoxy)pyrrolidine (1 g) was dissolved in methanol (50 ml) and di-tert-butyl dicarbonate (992 mg) was added. The reaction mixture was stirred for 1 h and the reaction mixture concentrated in vacuo yielding a pale orange oil that solidified to white solid on standing (1.5 g).

reactant | 3-(2-Bromophenoxy)pyrrolidine | 1 g | BrC1=C(OC2CNCC2)C=CC=C1 | C10H12BrNO
reactant | di-tert-butyl dicarbonate | 992 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2-Bromophenoxy)-1-(tert-butyloxycarbonyl)pyrrolidine | BrC1=C(OC2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C15H20BrNO3
